US06429214B1
(6-Methoxy-1,2,3,4-tetrahydro-napthalen-2-yl)-acetic acid ethyl ester
A solution of (6-methoxy-3,4-dihydro-1H-napthalen-2-ylidene)-acetic acid ethyl ester (4.4 g, 18 mmol) in ethyl acetate (35 mL) was hydrogenated over 10% Pd—C (0.9 g) at 50 psi and left overnight. The reaction mixture was filtered through diatomaceous earth and washed with ethyl acetate (200 mL). The filtrate was concentrated to give the title compound (4.0 g, 91% yield) as a clear, colorless oil.

reactant | (6-methoxy-3,4-dihydro-1H-napthalen-2-ylidene)-acetic acid ethyl ester | 18 mmol, 4.4 g | C(C)OC(C=C1CC2=CC=C(C=C2CC1)OC)=O | C15H18O3
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 0.9 g | [Pd] | Pd
product | (6-Methoxy-1,2,3,4-tetrahydro-napthalen-2-yl)-acetic acid ethyl ester | 4.0 g, 91% yield | C(C)OC(CC1CC2=CC=C(C=C2CC1)OC)=O | C15H20O3
